US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 11, making variations only as required to use 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide in place of 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide to react with 2-trifluoromethylbenzyl chloride, the title compound was obtained as a white solid (32% yield). m.p. 106-108° C. 1H NMR (500 MHz, CDCl3) δ 7.97-8.04, 7.83, 7.65, 7.55, 7.37, 6.96, 3.77, 3.73, 3.56, 2.63, 1.52, 0.71-0.80, 0.45-0.49, 0.08-0.13. MS (ES+) m/z 434 (M+1).

reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
reactant | 2-trifluoromethylbenzyl chloride | FC(C1=C(CCl)C=CC=C1)(F)F | C8H6ClF3
product | 6-[4-(2-TRIFLUOROMETHYLBENZYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)CC1=C(C=CC=C1)C(F)(F)F | C22H26F3N5O
